US04199531
In dimethylformamide (20 ml) was dissolved 1-bromo-3-methyl-butene(1.49 g, 10 m moles) and sodium p-toluenesulfinate dihydrate (2.5 g, 1.16 equiv.), the solution was stirred at room temperature for 3 hours. The product was isolated in the usual manner and recrystallized from n-hexane to give 1-(p-toluenesulfonyl)-3-methyl-2-butene (2.16 g, 96.4%), melting point: 71°-72° C.

reactant | 1-bromo-3-methyl-butene | 1.49 g | BrC=CC(C)C | C5H9Br
reactant | sodium p-toluenesulfinate dihydrate | 2.5 g, 1.16 equiv. | O.O.C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(p-toluenesulfonyl)-3-methyl-2-butene | 2.16 g, 96.4% | C1(=CC=C(C=C1)S(=O)(=O)CC=C(C)C)C | C12H16O2S
